datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[O:38][O:39]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14].[H:12][O:38][O:39],213.09112
[C:0](=[C:1]([C:2](=[C:3]([H:11])[H:12])[C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:13])[H:14])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1[C:3]([H:11])([H:12])[C:5]([C:6]([H:15])([H:16])[H:17])([C:7]([H:18])([H:19])[H:20])[C:4]1([H:13])[H:14])[H:10])([H:8])[H:9],123.302
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[O:5][O:6][H:17])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9].[O:5][O:6][H:17],63.5968
[C:18](#[C:19][H:20])[H:21].[C:1](=[C:2]([c:3]1[c:5][c:6]([H:7])[c:8]([H:9])[c:10]([H:11])[c:12]1[H:14])[H:15])([H:16])[H:17]>>[C:1](=[C:2]([c:3]1[c:5]([H:16])[c:6]([H:7])[c:8]([H:9])[c:10]([H:11])[c:12]1[C:18](=[C:19]([H:14])[H:20])[H:21])[H:15])[H:17],18.120904
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])([H:4])[C:10]([C:11]([C:12]([C:13]([C:14]([C:15]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:32][H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12].[H:10][O:32][H:33],4.075216
[O:0][O:1][C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18]>>[O:0]([O:1][C:2]1([H:8])[C:3]([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:9],86.052328
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10][C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:10](=[C:9]([H:12])[H:13])[C:11]([H:14])([H:15])[H:16])[H:5],5.77392
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[H:13])[H:12]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:10]([C:9]#[C:8][H:12])([C:11]([H:14])([H:15])[H:16])[H:13],30.1666
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[O:1])[H:3].[H:2][C:5]([C:4]([H:7])([H:8])[H:9])([C:6]([H:11])([H:12])[H:13])[H:10],29.1206
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]1([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]([H:25])([H:26])[C:15]2([H:27])[C:16]([H:28])([H:29])[C:17]([H:30])([H:31])[C:18]([H:32])([H:33])[C:19]2([H:34])[C:20]1([H:35])[H:36]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:28])[H:5].[C:12]1([H:21])([H:22])[C:13]([H:23])([H:24])[C:14]([H:25])([H:26])[C:15]2([H:27])[C:16]([H:29])[C:17]([H:30])([H:31])[C:18]([H:32])([H:33])[C:19]2([H:34])[C:20]1([H:35])[H:36],62.76
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[H:20]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])([C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:20])[H:10])([H:8])[H:9],11.5897
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:20][O:30][O:31],199.11656
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18][C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:18](=[C:17]([H:20])[H:21])[C:19]([H:22])([H:23])[H:24])[H:9])([H:7])[H:8],-5.69024
